US07125901B2
Methyl 2-(4-{2-[2-(acetylamino)-1,3-thiazol-4-yl]ethyl}phenyl)ethanimidoate hydrochloride (600 mg) was dissolved in EtOH (12 ml). Then ammonium chloride (136 mg) and ammonia in methanol (2 ml) were added to the solution. The reaction mixture was refluxed for 4 hours under N2 atmosphere. After cooled to r.t., the suspension was filtered in vacuo. The filtrate was concentrated in vacuo, and the residue was solidified with EtOH/diethyl ether to give N-(4-{2-[4-(2-amino-2-iminoethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide hydrochloride (338.6 mg) as an off-white solid.

reactant | Methyl 2-(4-{2-[2-(acetylamino)-1,3-thiazol-4-yl]ethyl}phenyl)ethanimidoate hydrochloride | 600 mg | Cl.C(C)(=O)NC=1SC=C(N1)CCC1=CC=C(C=C1)CC(OC)=N
reactant | ammonium chloride | 136 mg | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | EtOH | 12 ml | CCO | C2H6O
solvent | methanol | 2 ml | CO | CH4O
product | N-(4-{2-[4-(2-amino-2-iminoethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide hydrochloride | 338.6 mg | Cl.NC(CC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O)=N | InChI=1S/C15H18N4OS.ClH/c1-10(20)18-15-19-13(9-21-15)7-6-11-2-4-12(5-3-11)8-14(16)17;/h2-5,9H,6-8H2,1H3,(H3,16,17)(H,18,19,20);1H
